US05374656
0.68 g of iron powder and 0.5 cm3 of concentrated hydrochloric acid are added to a suspension of 2.1 g of tert-butyl (RS)-2-{2-[3-(3methylphenyl)ureido]-N-phenylacetamido}-2-(4-nitrophenyl)acetate in 40 cm3 of a mixture of ethanol and water (50/50 by volume) heated under reflux. The reaction mixture is kept under reflux for 4 hours and after cooling it is rendered alkaline to pH 8 using a saturated aqueous sodium bicarbonate solution. The insoluble product is removed by filtration and the filtrate is extracted with 3 times 100 cm3 of dichloromethane. The organic extracts are washed with twice 100 cm3 of water, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The oily residue obtained is purified by chromatography on 100 g of silica (0.04-0.063 mm) contained in a column 3 cm in diameter [eluent: methanol/dichloromethane (1/99 by volume)], using an excess pressure of 40 kPa of nitrogen and collecting 10-cm3 fractions. Fractions 8 to 14 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization from isopropyl ether, 0.8 g of tert-butyl (RS)-2-(4-aminophenyl)-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetate melting at 108° C. is obtained.

reactant | hydrochloric acid | 0.5 cm3 | Cl | ClH
reactant | tert-butyl (RS)-2-{2-[3-(3methylphenyl)ureido]-N-phenylacetamido}-2-(4-nitrophenyl)acetate | 2.1 g | CC=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)C(C(=O)OC(C)(C)C)C1=CC=C(C=C1)[N+](=O)[O-])=O | C28H30N4O6
reactant | ethanol | C(C)O | C2H6O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | iron | 0.68 g | [Fe] | Fe
solvent | water | O | H2O
product | tert-butyl (RS)-2-(4-aminophenyl)-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetate | 0.8 g | NC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)N(C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1 | C28H32N4O4
